### PR TITLE
Week4

### LINKED ISSUE #6: Potential headaches
Just documenting a thought here.

I don't know how lean works or what olean files are, but a potential red flag is that `.lake` contains a compressed folder [linux-64.tar.gz](https://github.com/glams-lean-2024/formal-2024/blob/main/.lake/linux-64.tar.gz) which I'm assuming was uncompressed to make up some of the contents of `.lake`.

Given the name, this stuff is almost certainly platform specific. Alvaro was also having some issue on mac (@PatrickKinnear  saw more of that), potentially related. The other thing to note was that `.lake` was not included in the original repo (and was gitignored).

Although since this 'works' or can be worked around, this could just be ignored if this repo is only being used in the first weeks (where people would use codespaces anyway).

### LINKED ISSUE #12: CI build error
Kept getting an error with CI when I deleted `.lake` folder. Not sure why?

The current error is showing up because of the `sorry`'s and actual errors - haha; so I don't think that's an issue. I tried running the repository from codespaces from scratch, and it's working fine.

But, ideally, `.lake` should be gitignored. Need to fix this soon.

### PR DESCRIPTION
**Pull request by SimoneCastellan**
Week 4 material.

We discuss the differences between sets and types, and a brief on what a type actually is.

### CODE REVIEW

File: Formal2024/Workshops/workshop4.lean [hunk 1]
```diff
@@ -0,0 +1,251 @@
...
+  tada
+
+
+example : s ∩ (t ∪ u) ⊆ s ∩ t ∪ s ∩ u := by
+  intro x hx                      -- Subset works like an implication
+  have xs : x ∈ s := hx.1         -- Intersection works like an `∧`
+  have xtu : x ∈ t ∪ u := hx.2    -- Union works like an `∨`
+  rcases xtu with xt | xu
+  · left
+    show x ∈ s ∩ t
```
Comment (AdrianDoM) [inline Formal2024/Workshops/workshop4.lean]: I believe this is the first time we've used `show`. We should probably say something about it.

File: Formal2024/Workshops/workshop4.lean [hunk 2]
```diff
@@ -0,0 +1,251 @@
...
+-- This is quite lengthy. We can use `rintro` to shorten the proof
+
+example : (s \ t) \ u ⊆ s \ (t ∪ u) := by
+  rintro x ⟨⟨xs, xnt⟩, xnu⟩
+  use xs
+  rintro (xt | xu) <;> contradiction -- We often need brackets when using `rintro` on a conjunction
+  tada
+
+-- Two sets are equal when they have the same elements. This is called "extensionality"
+-- You can use it by typing `ext _`
```
Comment (AdrianDoM) [inline Formal2024/Workshops/workshop4.lean:166]: We met the `ext` tactic in the last homework to show that two functions are the same. Maybe we should say more generally what `ext` is doing, i.e. apply lemmas marked with the `@[ext]` attribute, which are used to show to things are equal.

File: Formal2024/Workshops/workshop4.lean [hunk 3]
```diff
@@ -0,0 +1,251 @@
...
+
+end
+
+/-
+The main difference between sets and types is the predicate `∈`. In fact, in Lean a set coincides
+with its `∈` predicate:
+
+`Set α` is defined as `α → Prop`. If `s : Set α` and `a : α`, then `a ∈ s` is defined as `s a`.
+The set `{ y | P y }` is defined as the function `fun y ↦ P y` and `x ∈ { y | P y }` means `P x`.
+-/
```
Comment (AdrianDoM) [inline Formal2024/Workshops/workshop4.lean:221]: This is true, but sometimes Lean gets a little confused (I don't know why) and forgets about this. If `h : x ∈ { y | P y }` and Lean refuses to recognise `h : P x`, then `h.out` definitely does the job.

File: Formal2024/Workshops/workshop4.lean (hunk 1 above)
Comment (SimoneCastellan) [reply Formal2024/Workshops/workshop4.lean]: To be fair here show really does nothing. I changed it to unfolding the definition of intersection and added the comment.

File: Formal2024/Workshops/workshop4.lean (hunk 2 above)
Comment (SimoneCastellan) [reply Formal2024/Workshops/workshop4.lean:166]: I'll add some comment, and then maybe we can be more precise once we go into structures?

**Review by PatrickKinnear — COMMENTED** [review]
This looks good to me: about the right amount of content and introducing us to type theory while practising tactics we mostly already saw.

The only problem is I can't get the files to compile either locally or in codespaces, possibly due to recent changes elsewhere in the project?

File: Formal2024/Workshops/workshop4.lean (hunk 2 above)
Comment (AdrianDoM) [reply Formal2024/Workshops/workshop4.lean:166]: Yeah that works!

File: Formal2024/Workshops/workshop4.lean [hunk 4]
```diff
@@ -0,0 +1,259 @@
...
+#check mem_setOf
+#check inter_def
+#check union_def
+#check mem_diff
+
+example (h : s ⊆ t) : s ∩ u ⊆ t ∩ u := by
+  simp only [subset_def, inter_def, inter_def, mem_setOf]
+  rw [subset_def] at h
+  -- We can use `simp only` or `rw` to unfold the definitions
+  -- `simp only` is a more powerful `rw`, that also works under quantifiers
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop4.lean:113]: or `simp_rw`
I usually prefer `simp_rw` to `simp only` since you can see each rewrite interactively

File: Formal2024/Workshops/workshop4.lean [hunk 5]
```diff
@@ -0,0 +1,259 @@
...
+-/
+
+def setNat : Set ℕ := univ -- This is the set of all natural numbers
+
+-- Sets come with a predicate: `∈` (`\in` or `\mem`). Its negation is `∉` (`\notin`)
+
+#check ( 1 ∈ setNat ) -- This is in `Prop`
+#check ( 1 : ℕ )     -- This is not
+
+-- `( 1 : ℕ )` is a statement in type theory, but not an element in `Prop`, our model of
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop4.lean]:
```suggestion
-- `(1 : ℕ)` is a statement in type theory, but not an element in `Prop`, our model of
```

File: Formal2024/Workshops/workshop4.lean [hunk 6]
```diff
@@ -0,0 +1,259 @@
...
+section
+/-
+  # How is a type different from a set?
+-/
+
+def setNat : Set ℕ := univ -- This is the set of all natural numbers
+
+-- Sets come with a predicate: `∈` (`\in` or `\mem`). Its negation is `∉` (`\notin`)
+
+#check ( 1 ∈ setNat ) -- This is in `Prop`
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop4.lean]:
```suggestion
#check (1 ∈ setNat) -- This is in `Prop`
```

File: Formal2024/Workshops/workshop4.lean [hunk 7]
```diff
@@ -0,0 +1,259 @@
...
+#check ( 1 : ℕ )     -- This is not
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop4.lean]:
```suggestion
#check (1 : ℕ)     -- This is not
```

File: Formal2024/Workshops/workshop4.lean [hunk 8]
```diff
@@ -0,0 +1,259 @@
...
+
+#check 1
+#check 1+1=2 -- We discussed how `Prop` is the type of propositions
+
+#check ℕ -- The type of `ℕ` is the type of types, called `Type`
+#check Prop -- Same for `Prop`
+#check Type -- Lean has a countably infinite hierarchy of type of types (of types of types...)
+#check Type 1
+--#check Type 33 -- Well, almost infinite
+-- unless you manually increase the `maxUniverseOffset`
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop4.lean]:
```suggestion
-- **Note:** However, you can manually increase the default `maxUniverseOffset`,
--   but you should not mess around with such options
--   unless you know for sure what you're doing!
```

File: Formal2024/Workshops/workshop4.lean [hunk 9]
```diff
@@ -0,0 +1,259 @@
...
+
+-- Sets come with a predicate: `∈` (`\in` or `\mem`). Its negation is `∉` (`\notin`)
+
+#check ( 1 ∈ setNat ) -- This is in `Prop`
+#check ( 1 : ℕ )     -- This is not
+
+-- `( 1 : ℕ )` is a statement in type theory, but not an element in `Prop`, our model of
+-- propositional logic inside type theory.
+
+-- Another big difference: if `a : α` and `a : β`, then `α` and `β` are definitionally equal
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop4.lean]: This seems incorrect

Comment (themathqueen) [reply Formal2024/Workshops/workshop4.lean]: Shouldn't it be: if ... **for all `a`**, then ...?

Comment (themathqueen) [reply Formal2024/Workshops/workshop4.lean]: Wait, no, wouldn't it be equivalent? (so there is a coercion from `α` to `β`)
Where did you get definitionally equal types from?

File: Formal2024/Workshops/workshop4.lean [hunk 10]
```diff
@@ -0,0 +1,259 @@
...
+  -- `simp only` is a more powerful `rw`, that also works under quantifiers
+  -- Now we can proceed as usual
+  rintro x ⟨xs, xu⟩
+  exact ⟨h x xs, xu⟩
+  tada
+
+example (h : s ⊆ t) : s ∩ u ⊆ t ∩ u := by
+  -- This is not needed though, as the anonymus constructor forces Lean to unfold the definitions
+  rintro x ⟨xs, xu⟩
+  exact ⟨h xs, xu⟩ -- There may be some slight differences (here we do not need to specify x)
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop4.lean]:
```suggestion
  exact ⟨h xs, xu⟩ -- There may be some slight differences (here we do not need to specify `x`)
```

File: Formal2024/Workshops/workshop4.lean [hunk 11]
```diff
@@ -0,0 +1,259 @@
...
+example : (s \ t) \ u ⊆ s \ (t ∪ u) := by
+  rintro x ⟨⟨xs, xnt⟩, xnu⟩
+  use xs
+  rintro (xt | xu) <;> contradiction -- We often need brackets when using `rintro` on a conjunction
+  tada
+
+-- Two sets are equal when they have the same elements. This is called "extensionality"
+-- You can use it by typing `ext _`
+-- This is the same tactic used to prove functions are equal if they agree on all inputs
+-- When we define a structure with extensionality-like property, we can mark it wit `@[ext]`
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop4.lean]:
```suggestion
-- When we define a structure with extensionality-like property, we can mark it with `@[ext]`
```

File: Formal2024/Workshops/workshop4.lean [hunk 12]
```diff
@@ -0,0 +1,259 @@
...
+example (x : ℕ) : x ∈ (univ : Set ℕ) :=
+  trivial -- `trivial` is the name of the canonical proof of `True`
+
+-- Exercises (MIL 4.1)
+
+section
+
+variable (s t : Set ℕ)
+
+def evens : Set ℕ :=
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop4.lean]:
```suggestion
def evenSet : Set ℕ :=
```

File: Formal2024/Workshops/workshop4.lean [hunk 13]
```diff
@@ -0,0 +1,259 @@
...
+  { n | Even n }
+
+def odds : Set ℕ :=
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop4.lean]:
```suggestion
def oddSet : Set ℕ :=
```

File: Formal2024/Workshops/workshop4.lean [hunk 14]
```diff
@@ -0,0 +1,259 @@
...
+  { n | ¬Even n }
+
+#print Prime
+#print Nat.Prime
+
+-- 6
+example : { n | Nat.Prime n } ∩ { n | n > 2 } ⊆ { n | ¬Even n } := by
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop4.lean]:
```suggestion
example : { n | Nat.Prime n } ∩ { n | n > 2 } ⊆ oddSet := by
```

File: lakefile.lean [hunk 15]
```diff
@@ -10,16 +10,21 @@ package «Formal2024» {
...
 }
 
 
+lean_lib «Library» {
+  srcDir:= "Tactics"
+}
+
+lean_lib «TruthTable» {
+  srcDir:= "Tactics"
+}
```
Comment (themathqueen) [inline lakefile.lean]:
```suggestion
-- lean_lib «TruthTable» {
--  srcDir:= "Tactics"
-- }
```

File: Formal2024/Homeworks/homework4.lean [hunk 16]
```diff
@@ -0,0 +1,167 @@
...
+open Set Real
+
+-- `InjOn f s` is a predicate that means "`f` is injective on `s`"
+
+#print InjOn
+
+example : InjOn log { x | x > 0 } := by
+  intro x xpos y ypos
+  intro e
+  -- log x = log y
```
Comment (themathqueen) [inline Formal2024/Homeworks/homework4.lean]:
```suggestion
  -- `log x = log y`
```

File: Formal2024/Homeworks/homework4.lean [hunk 17]
```diff
@@ -0,0 +1,167 @@
...
+  calc
+    x = exp (log x) := by rw [exp_log xpos]
+    _ = exp (log y) := by rw [e]
+    _ = y := by rw [exp_log ypos]
+
+-- We also define `range f` as `{x | ∃y, f y = x}`
```
Comment (themathqueen) [inline Formal2024/Homeworks/homework4.lean]:
```suggestion
-- We also define `range f` as `{ x | ∃ y, f y = x }`
```

**Review by themathqueen — CHANGES_REQUESTED** [review]

File: Formal2024/Workshops/workshop4.lean [hunk 18]
```diff
@@ -0,0 +1,261 @@
...
+-- Two sets are equal when they have the same elements. This is called "extensionality"
+-- You can use it by typing `ext _`
+-- This is the same tactic used to prove functions are equal if they agree on all inputs
+-- When we define a structure with extensionality-like property, we can mark it with `@[ext]`
+-- so that Lean adds an appropriate extensionality lemma to the `ext` tactic.
+-- More on this in the next lectures.
+
+
+example : s ∩ t = t ∩ s := by
+  ext x -- You can give the variable a name by typing it instead of `_`
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop4.lean:174]: you've already given it a name

File: Formal2024/Workshops/workshop4.lean (hunk 9 above)
Comment (SimoneCastellan) [reply Formal2024/Workshops/workshop4.lean]: It's from that paper you shared on Discord "The type theory of Lean". Theorem 4.1 (Unique typing)

Comment (themathqueen) [reply Formal2024/Workshops/workshop4.lean]: Hmm... might make sense in theory, but definitely not in practice. Idk, I can't make much sense of it.

Comment (themathqueen) [reply Formal2024/Workshops/workshop4.lean]:
```lean
example {α β : Type*} (a : α) (a : β) : α = β := ?
```

Comment (themathqueen) [reply Formal2024/Workshops/workshop4.lean]: This makes me think of the following as a good exercise (for this or next week):

```lean
example : ∃ α β : Type, α ≠ β
```

File: Formal2024/Homeworks/homework4.lean [hunk 19]
```diff
@@ -0,0 +1,170 @@
...
+-- If `f : α → β` is a function and `p` is a set of elements of type `β`,
+-- the library defines `preimage f p`, written `f ⁻¹' p`, to be `{x | f x ∈ p}`.
+
+
+example : f ⁻¹' (u ∩ v) = f ⁻¹' u ∩ f ⁻¹' v := by
+  ext x -- The expression `x ∈ f ⁻¹' p` reduces to `f x ∈ p`
+  rfl
+
+-- If `s` is a set of elements of type `α`, the library also defines `image f s`, written `f '' s`,
+-- to be `{y | ∃ x, x ∈ s ∧ f x = y}`. So a hypothesis `y ∈ f '' s` decomposes to a triple
```
Comment (themathqueen) [inline Formal2024/Homeworks/homework4.lean]:
```suggestion
-- to be `{ y | ∃ x, x ∈ s ∧ f x = y }`. So a hypothesis `y ∈ f '' s` decomposes to a triple
```

keep the notation and syntax consistent

File: Formal2024/Homeworks/homework4.lean [hunk 20]
```diff
@@ -0,0 +1,170 @@
...
+
+variable {α β : Type*}
+variable (f : α → β)
+variable (s t : Set α)
+variable (u v : Set β)
+
+open Function
+
+-- If `f : α → β` is a function and `p` is a set of elements of type `β`,
+-- the library defines `preimage f p`, written `f ⁻¹' p`, to be `{x | f x ∈ p}`.
```
Comment (themathqueen) [inline Formal2024/Homeworks/homework4.lean]:
```suggestion
-- the library defines `preimage f p`, written `f ⁻¹' p`, to be `{ x | f x ∈ p }`.
```

File: Formal2024/Homeworks/homework4.lean [hunk 21]
```diff
@@ -0,0 +1,170 @@
...
+example : InjOn log PosReals := by
+  intro x xpos y ypos
+  intro e
+  -- `log x = log y`
+  calc
+    x = exp (log x) := by rw [exp_log xpos]
+    _ = exp (log y) := by rw [e]
+    _ = y := by rw [exp_log ypos]
+
+-- `range f` is defined as the set `{ x | ∃ y, f y = x }`
```
Comment (themathqueen) [inline Formal2024/Homeworks/homework4.lean]:
```suggestion
-- `range f` is defined as the set `{ x : ℝ | ∃ y : ℝ, f y = x }`
```

File: Formal2024/Workshops/workshop4.lean [hunk 22]
```diff
@@ -0,0 +1,260 @@
...
+
+-- The notation `∀ x ∈ t` means `∀ x, x ∈ t → ... `, and `∃ x ∈ t` means `∃ x, x ∈ t → ... `
+
+-- 7
+example (h₀ : ∀ x ∈ t, ¬Even x) (h₁ : ∀ x ∈ t, Prime x) : ∀ x ∈ s, ¬Even x ∧ Prime x := by
+  sorry
+
+-- 8
+example (h : ∃ x ∈ s, ¬Even x ∧ Prime x) : ∃ x ∈ t, Prime x := by
+  sorry
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop4.lean:263]: since these are all about even, odd and primes, wouldn't it be a good idea to also add some stuff on them as homework?

like proving odd + even = odd, odd + odd = even, even * · = even, ...

File: Formal2024/Workshops/workshop4.lean [hunk 23]
```diff
@@ -0,0 +1,260 @@
...
+/-
+The main difference between sets and types is the predicate `∈`. In fact, in Lean a set coincides
+with its `∈` predicate:
+
+`Set α` is defined as `α → Prop`. If `s : Set α` and `a : α`, then `a ∈ s` is defined as `s a`.
+The set `{ y | P y }` is defined as the function `fun y ↦ P y` and `x ∈ { y | P y }` means `P x`.
+-/
+--
+
+example : 1 ∈ { x : ℕ | x > 0} := by norm_num
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop4.lean]:
```suggestion
example : 1 ∈ { x : ℕ | 0 < x } := by norm_num
```

File: Formal2024/Workshops/workshop4.lean [hunk 24]
```diff
@@ -0,0 +1,260 @@
...
+-- To make sense of things like subsets, intersections, union, complements, we need `Set`
+
+end
+
+section
+variable {α : Type*}
+variable (s t u : Set α)
+
+-- We write `⊆` (`\ss` or `\sub`) for subset, `∩` (`\i` or `\cap`) for intersection,
+-- `∪` (`\u` or `\cup`) for union, and `\` (typed as `\`) for set difference.
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop4.lean]:
```suggestion
-- `∪` (`\u` or `\cup`) for union, and `\` (typed as `\setdifference`) for set difference.
```

File: Formal2024/Workshops/workshop4.lean [hunk 25]
```diff
@@ -0,0 +1,260 @@
...
+-- Another big difference: if `a : α` and `a : β`, then `α` and `β` are definitionally equal
+-- To make sense of things like subsets, intersections, union, complements, we need `Set`
+
+end
+
+section
+variable {α : Type*}
+variable (s t u : Set α)
+
+-- We write `⊆` (`\ss` or `\sub`) for subset, `∩` (`\i` or `\cap`) for intersection,
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop4.lean]:
```suggestion
-- We write `⊆` (`\ss` or `\subseteq`) for subset, `∩` (`\i` or `\cap`) for intersection,
```

File: Formal2024/Workshops/workshop4.lean (hunk 9 above)
Comment (SimoneCastellan) [reply Formal2024/Workshops/workshop4.lean]: > Hmm... might make sense in theory, but definitely not in practice. Idk, I can't make much sense of it.

From the way it looks it is a meta-theorem, not sure if you can prove it in Lean. I guess the point I wanted to make is that for sets we have subsets, but there is no analogue for types. 
I should add a more grounded example like how (1 : \N) is different from (1 : \R)

File: Formal2024/Workshops/workshop4.lean (hunk 22 above)
Comment (SimoneCastellan) [reply Formal2024/Workshops/workshop4.lean:263]: I feel like they already have a lot of exercises for the session, but we can keep it in mind in case someone is very fast to finish everything

File: Formal2024/Workshops/workshop4.lean (hunk 9 above)
Comment (themathqueen) [reply Formal2024/Workshops/workshop4.lean]: Yes! Say that exactly. In fact, write something along the lines of:

```lean
-- if you do
-- `example : (1 : ℕ) = (1 : ℤ)`
-- you will see an error about mismatched types and applications and all
```

File: Formal2024/Workshops/workshop4.lean (hunk 18 above)
Comment (SimoneCastellan) [reply Formal2024/Workshops/workshop4.lean:174]: Yes, but when I introduce `ext` before the argument is implicit so here I am explaining the different syntax

File: Formal2024/Workshops/workshop4.lean (hunk 9 above)
Comment (themathqueen) [reply Formal2024/Workshops/workshop4.lean]: If you do want to keep the original sentence, then I suggest you add that it is a "meta-theorem" (so cannot be proved in Lean), and also add a reference

File: Formal2024/Workshops/workshop4.lean (hunk 18 above)
Comment (themathqueen) [reply Formal2024/Workshops/workshop4.lean:174]: ohh well then maybe do:
```suggestion
  ext x -- You can give the variable a name by typing anything instead of `_` as before
```

File: Formal2024/Workshops/workshop4.lean (hunk 22 above)
Comment (themathqueen) [reply Formal2024/Workshops/workshop4.lean:263]: maybe add it as **extra** homework? it's a good exercise!

File: Formal2024/Workshops/workshop4.lean (hunk 9 above)
Comment (themathqueen) [reply Formal2024/Workshops/workshop4.lean]: > I guess the point I wanted to make is that for sets we have subsets, but there is no analogue for types. I should add a more grounded example like how (1 : \N) is different from (1 : \R)

But make sure when you say this, you say 1 as a natural number cannot equal to 1 as a real number (because if you write the opposite in Lean, it just automatically gets coerced into the reals), and we don't want to confuse them with coercions just yet haha

File: Formal2024/Workshops/workshop4.lean (hunk 18 above)
Comment (SimoneCastellan) [reply Formal2024/Workshops/workshop4.lean:174]: Yes, but when I introduce `ext` before the argument is implicit so here I am explaining the different syntax

Comment (themathqueen) [reply Formal2024/Workshops/workshop4.lean:174]: oh right, it's in the comments above. I totally missed that. okok nvm!

File: .vscode/settings.json [hunk 26]
```diff
@@ -1,8 +1,31 @@
 {
+  "files.exclude": {
```
Comment (AdrianDoM) [inline .vscode/settings.json:2]: Why have we hidden these files? There is a chance we have to delete the `.lake` dir this week, so hidding it is just going to make that harder.

Comment (themathqueen) [reply .vscode/settings.json:2]: it's better if it's hidden
easier on the eyes

if we need the students to delete the `.lake` directory then we'll just tell them to type `rm -r .lake` in their terminals?

Comment (themathqueen) [reply .vscode/settings.json:2]: in fact, how about i write a script that will remove the `.lake` directory anyway, and do `lake exe cache get`?

so all the students would need to do is type in `sh script.sh`

Comment (AdrianDoM) [reply .vscode/settings.json:2]: I think running two commands is not much harder than running one 😂

File: Formal2024/Workshops/workshop4.lean (hunk 9 above)
Comment (SimoneCastellan) [reply Formal2024/Workshops/workshop4.lean]: > Yes! Say that exactly. In fact, write something along the lines of:
> 
> ```lean
> -- if you do
> -- `example : (1 : ℕ) = (1 : ℤ)`
> -- you will see an error about mismatched types and applications and all
> ```
It seems like Lean has no problem with this, you can even solve it with norm_num ahaha

Comment (SimoneCastellan) [reply Formal2024/Workshops/workshop4.lean]: It became too smart

File: .vscode/settings.json (hunk 26 above)
Comment (themathqueen) [reply .vscode/settings.json:2]: lmao, or we can just say type in
```terminal
rm -r .lake && lake update && lake exe cache get
```
basically one command haha

File: Formal2024/Workshops/workshop4.lean (hunk 9 above)
Comment (themathqueen) [reply Formal2024/Workshops/workshop4.lean]: hahah. alright, this gives an error:
```lean
example : (1 : ℕ) = ((1 : ℝ) : ℤ)
```

1 as a natural number equals 1 as an integer (which is 1 as a real number) gives an error

File: Formal2024/Workshops/workshop4.lean (hunk 22 above)
Comment (themathqueen) [reply Formal2024/Workshops/workshop4.lean:263]: we can add this extra homework later tomorrow / after
